US05925662
9.3. 2-Propyl-3,4-dihydro-2H-1-benzopyran
A solution of 44 g (234 mmol) of 2-propyl-1-benzopyran-4-one in 350 ml of ethanol and 125 ml of concentrated hydrochloric acid is hydrogenated for 8 hours under a pressure of 500 kPa, in the presence of 14 g of 10% palladium on carbon containing 50% of water. The mixture is then filtered and the filtrate is concentrated under reduced pressure. By chromatography of the residue on a silica column using dichloromethane, 26 g of product are obtained in oil form.

reactant | 2-propyl-1-benzopyran-4-one | 234 mmol, 44 g | C(CC)C=1OC2=C(C(C1)=O)C=CC=C2 | C12H12O2
reactant | water | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 125 ml | Cl | ClH
catalyst | palladium on carbon | 14 g | [Pd] | Pd
product | 2-Propyl-3,4-dihydro-2H-1-benzopyran | C(CC)C1OC2=C(CC1)C=CC=C2 | C12H16O
